US08207167B2
2′,4′-Difluoro-N-(3-(2-hydroxy-1-morpholinoethyl)phenyl)biphenyl-4-sulfonamide (ABD792)
Using a method analogous to Method D, using 2′,4′-difluoro-N-(3-(oxiran-2-yl)phenyl)biphenyl-4-sulfonamide and 1 M morpholine in methanol, a mixture of regioisomers was obtained. Reverse-phase HPLC was used to purify the mixture and the title compound was obtained as a pale orange powder from the mixture of isomers as gave ABD785. 1H NMR (300 MHz, CDCl3): δ 2.75-2.81 (3H, m), 3.30 (1H, m), 3.60-3.95 (8H, m), 4.10-4.20 (1H, m), 6.80-7.10 (3H, m), 7.20-7.30 (2H, m), 7.35-7.45 (2H, m), 7.57 (2H, d, J=8 Hz) and 7.91 (2H, d, J=8 Hz). MS, m/z: Calcd, 474.142. Found, 474.58 (M).

reactant | 2′,4′-difluoro-N-(3-(oxiran-2-yl)phenyl)biphenyl-4-sulfonamide | FC1=C(C=CC(=C1)F)C1=CC=C(C=C1)S(=O)(=O)NC1=CC(=CC=C1)C1OC1 | C20H15F2NO3S
reactant | morpholine | 1 M | N1CCOCC1 | C4H9NO
solvent | methanol | CO | CH4O
product | 2′,4′-Difluoro-N-(3-(2-hydroxy-1-morpholinoethyl)phenyl)biphenyl-4-sulfonamide | FC1=C(C=CC(=C1)F)C1=CC=C(C=C1)S(=O)(=O)NC1=CC(=CC=C1)C(CO)N1CCOCC1 | C24H24F2N2O4S
